US05935993
(E)-3-(3-t-Butyl-4-hydroxyphenyl)-2-(4-fluorophenylsulfonyl)acrylonitrile:
The reaction mixture of 178.0 mg of 3-t-butyl-4-hydroxybenzaldehyde and 219.0 mg of (4-fluorobenzenesulphonyl)acetonitrile in 2.0 mL of ethanol containing 0.01 mL piperidine was refluxed for 4 h and cooled down. To the above reaction mixture was added water and then the aqueous layer was extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and concentrated. The resulting residue was purified on silica gel column eluting with ethyl acetate-hexane (1:6) to give 295.0 mg of the titled compound.

reactant | 3-t-butyl-4-hydroxybenzaldehyde | 178.0 mg | C(C)(C)(C)C=1C=C(C=O)C=CC1O | C11H14O2
reactant | (4-fluorobenzenesulphonyl)acetonitrile | 219.0 mg | FC1=CC=C(C=C1)S(=O)(=O)CC#N | C8H6FNO2S
reactant | water | O | H2O
solvent | ethanol | 2.0 mL | C(C)O | C2H6O
product | (E)-3-(3-t-Butyl-4-hydroxyphenyl)-2-(4-fluorophenylsulfonyl)acrylonitrile | 295.0 mg | C(C)(C)(C)C=1C=C(C=CC1O)/C=C(\C#N)/S(=O)(=O)C1=CC=C(C=C1)F | C19H18FNO3S
